US04950678
A mixture of 3,4,5-trichloronitrobenzene (13.55 g, 59 mmol), potassium fluoride (4.65 g, 80 mmol) and dimethylformamide (DMF; 66 ml) is heated at 140° for 15 hours. An additional 2.5 g of potassium fluoride is added and the mixture is stirred an additional 15 hours at 140°. The reaction mixture is poured into water and extracted with ether. The combined organic layers are washed with water and with brine and filtered, and the solvent is removed to give a dark solid, which is purified by column chromatography to give 3,5-dichloro-4-fluoronitrobenzene, a yellow powder.

reactant | 3,4,5-trichloronitrobenzene | 59 mmol, 13.55 g | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | potassium fluoride | 80 mmol, 4.65 g | [F-].[K+]
reactant | dimethylformamide | 66 ml | CN(C=O)C | C3H7NO
reactant | potassium fluoride | 2.5 g | [F-].[K+]
solvent | water | O | H2O
product | 3,5-dichloro-4-fluoronitrobenzene | ClC=1C=C(C=C(C1F)Cl)[N+](=O)[O-] | C6H2Cl2FNO2
